US06660744B1
The procedure for thiazole synthesis, described in the preparation of cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-4-ethyl-1,3-thiazol-2-amine, was employed with the exception that 2-bromo-4′-methylacetophenone (0.118 g, 0.554 mmol) was used as the alkylating agent. Purification of the product by preparative HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 20 min at 21 mL/min using an 8μ Hypersil HS C18, 250×21 mm column, Rt 9.1-10.7 min) afforded cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-4-(4-methylphenyl)-1,3-thiazol-2-amine as an off-white powder (0.022 g, 0.038 mmol); RP-HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 10 min at 1 mL/min using a 5μ Hypersil HS C18, 250×4.6 mm column) Rt 8.88 min; MS (MH)+ 580.

reactant | thiazole | S1C=NC=C1 | C3H3NS
reactant | cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-4-ethyl-1,3-thiazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2SC=C(N2)CC)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C27H35N9S
reactant | 2-bromo-4′-methylacetophenone | 0.554 mmol, 0.118 g | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
product | cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-4-(4-methylphenyl)-1,3-thiazol-2-amine | 0.038 mmol, 0.022 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2SC=C(N2)C2=CC=C(C=C2)C)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C32H37N9S
